US05824705
a) Phenyl N-hydroxy-N-(2-methylphenyl)-carbamate
A mixture of 2.5 g (20 mmol) of N-(2-methylphenyl)-hydroxylamine (crude product, obtained according to Bamberger et al., Anm. Chem. 316 (1901), 278), 3.5 g (25 mmol) of K2CO3 and 3.5 g (22 mmol) of phenyl Chlorooformate in 20 ml of CH2Cl2 is stirred for 2 hours at room temperature. The reaction mixture is then extracted with water, dried over MgSO4 and evaporated down. The residue is purified by column chromatography with mixtures of cyclohexane and ethyl acetate. There is obtained 2.0 g (8.2 mmol =42%) of the title compound as a colorless solid (mp=98° C.).

reactant | N-(2-methylphenyl)-hydroxylamine | 20 mmol, 2.5 g | CC1=C(C=CC=C1)NO | C7H9NO
reactant | K2CO3 | 25 mmol, 3.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | Phenyl N-hydroxy-N-(2-methylphenyl)-carbamate | ON(C(OC1=CC=CC=C1)=O)C1=C(C=CC=C1)C | C14H13NO3
